US08686048B2
Intermediate 61: 3′-ethoxybiphenyl-4-amine
The title compound (200 mg) was prepared from 4-bromoaniline (300 mg, 1.74 mmol) and 3-ethoxyphenylboronic acid (380 mg, 2.29 mmol) as a colourless liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.33 (d, J 8.5, 2H), 7.26-7.22 (m, 1H), 7.06 (d, J 7.9, 1H), 7.01 (s, 1H), 6.75 (dd, J 5.8, 8.1, 1H), 6.60 (d, J 8.5, 2H), 5.20 (s, 2H), 4.04 (q, J 7, 2H), 1.16 (t, J 7, 3H).

reactant | 4-bromoaniline | 1.74 mmol, 300 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 3-ethoxyphenylboronic acid | 2.29 mmol, 380 mg | C(C)OC=1C=C(C=CC1)B(O)O | C8H11BO3
product | 3′-ethoxybiphenyl-4-amine | 200 mg | C(C)OC=1C=C(C=CC1)C1=CC=C(C=C1)N | C14H15NO
